US08034812B2
To a solution of 3-amino-4-methylphenol (930 mg, 7.5 mmol) in N,N-dimethylacetamide (10 mL) was added a solution of 1,3-dimethyl-1H-pyrazole-5-carbonylchloride (1370 mg, 8.7 mmol) in N, N-dimethylacetamide (5 mL), and the mixture was stirred at 0° C. for 20 min. To the mixture were added ethyl acetate/tetrahydrofuran, saturated aqueous sodium hydrogencarbonate solution, and the aqueous layer was extracted 4 times with ethyl acetate/tetrahydrofuran. Combined organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate/hexane to give N-(5-hydroxy-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (1170 mg, 63%) as a white solid. To a suspension of lithium aluminum hydride (1130 mg, 24 mmol) in tetrahydrofuran (35 mL) was slowly added dropwise a solution of N-(5-hydroxy-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide (1170 mg, 4.8 mmol) in tetrahydrofuran (10 mL) under ice-cooling. After dropwise addition, the reaction mixture was heated under reflux for 5 hr. A saturated aqueous sodium sulfate solution was added to the mixture under cooling, magnesium sulfate was added and the insoluble material was filtrated. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate/hexane to give the title compound (570 mg, 52%) as a white solid.

reactant | 3-amino-4-methylphenol | 7.5 mmol, 930 mg | NC=1C=C(C=CC1C)O | C7H9NO
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonylchloride | 8.7 mmol, 1370 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | N, N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-(5-hydroxy-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1170 mg, 63% | OC=1C=CC(=C(C1)NC(=O)C1=CC(=NN1C)C)C | C13H15N3O2
